US07351733B2
6-Chloro-N-(4-chlorophenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one and 4-chloroaniline in a similar manner as described in Example 13 to give 25-mg (16% yield) of a tan solid. 1H-NMR (CDCl3): δ 8.01 (m, 1H), 7.46 (d, 1H), 7.21-7.14 (m, 3H), 7.11 (dd, 1H), 6.65 (d, 2H), 4.76 (m, 1H), 2.70 (m, 2H), 2.22 (m, 1H), 2.01 (m, 1H), 1.94-1.75 (m, 2H); MS m/z 329 (M−1).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one | ClC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10ClNO
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 6-Chloro-N-(4-chlorophenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC1=CC=C(C=C1)Cl | C18H16Cl2N2
